US04137315
A stream of ammonia is passed into a solution of 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (5 g) in pyridine (200 cc) until the solution is saturated. The solution obtained is then stirred at a temperature of about 20° C. for 16 hours. The resulting suspension of red crystals is poured into iced water (600 cc). The crystalline precipitate is filtered off and then washed successively with water (5 × 10 cc), ethanol (3 × 10 cc) and then diethyl ether (2 × 20 cc). After drying under reduced pressure (1 mm Hg) at 25° C., 4-amino-10-nitro-7-oxo-7H-indolizino[7,6,5-de]-isoquinoline (4.18 g) is obtained in the form of orange-red crystals.

reactant | ammonia | N | H3N
reactant | 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 5 g | C(C)OC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-] | C16H11N3O4
reactant | water | 600 cc | O | H2O
solvent | pyridine | 200 cc | N1=CC=CC=C1 | C5H5N
product | 4-amino-10-nitro-7-oxo-7H-indolizino[7,6,5-de]-isoquinoline | 4.18 g | NC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-] | C14H8N4O3
